US05179100
11-Amino-4,5-dihydro-2H-pyrazolo[3,4-a]acridine-2-acetic acid ethyl ester
To a solution of 11-amino-4,5-dihydro-1H-pyrazolo[3,4-a]acridine (10 g) in dry DMF (300 ml) was added NaH (60%)(2.12 g) slowly. The reaction was stirred at room temperature for two hours, ethyl bromoacetate (6.0 ml) was added and the reaction was stirred for one hour.

reactant | 11-amino-4,5-dihydro-1H-pyrazolo[3,4-a]acridine | 10 g | NC=1C2=CC=CC=C2N=C2CCC3=C(C12)NN=C3 | C14H12N4
reactant | NaH | 2.12 g | [H-].[Na+]
reactant | ethyl bromoacetate | 6.0 ml | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | 11-Amino-4,5-dihydro-2H-pyrazolo[3,4-a]acridine-2-acetic acid ethyl ester | C(C)OC(CN1N=C2C(CCC3=NC4=CC=CC=C4C(=C23)N)=C1)=O | C18H18N4O2
